US04367234
5-(5-Chloro-2-methoxyphenyl)-3-cyclohexylcarbamoyloxazolidine-2,4-dione
5-(5-Chloro-2-methoxyphenyl)oxazolidine-2,4-dione (1.21 g., 5 mmoles) was suspended in 50 ml. of 1,2-dichloroethane. Triethylamine (1 drop) and then cyclohexylisocyanate (626 mg., 5 mmoles) were added. The reaction mixture was stirred for 19 hours at room temperature, washed in sequence with two portions of 1 N sodium hydroxide, two portions of 1 N hydrochloric acid and once with brine, dried over anhydrous magnesium sulfate, filtered and concentrated to solids. Recrystallization from toluene gave purified 5-(5-chloro-2-methoxyphenyl)-3-cyclohexylcarbamoyloxazolidine-2,4-dione [435 mg., m.p. 150°-153° C., ir (KBr) 1818, 1761, 1527, 1493, 1364 cm-1 ].

reactant | 5-(5-Chloro-2-methoxyphenyl)oxazolidine-2,4-dione | 5 mmoles, 1.21 g | ClC=1C=CC(=C(C1)C1C(NC(O1)=O)=O)OC | C10H8ClNO4
reactant | cyclohexylisocyanate | 5 mmoles, 626 mg | C1(CCCCC1)N=C=O | C7H11NO
catalyst | Triethylamine | 1 drop | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 5-(5-Chloro-2-methoxyphenyl)-3-cyclohexylcarbamoyloxazolidine-2,4-dione | ClC=1C=CC(=C(C1)C1C(N(C(O1)=O)C(NC1CCCCC1)=O)=O)OC | C17H19ClN2O5
